US06337351B1
(4E)-N-Methyl-5-(3-(dimethylamino)phenyl)-4-penten-2-amine
p-Toluenesulfonyl chloride (782 mg, 4.10 mmol) was added, in one portion, to a stirred solution of (4E)-5-(3-(dimethylamino)phenyl)-4-penten-2-ol (648 mg, 3.16 mmol) in triethylamine (2 mL) and dichloromethane (5 mL) at 10° C. under nitrogen. The cooling bath was removed, and the mixture was stirred at 25° C. for 18 h. Saturated aqueous NaHCO3 (10 mL) was then added and the biphasic mixture was vigorously stirred for 2 h. The layers were separated and the aqueous layer was extracted once with dichloromethane (10 mL). The combined organic layers were dried (Na2SO4) and evaporated, and the residue was combined with DMF (1 mL) and 40% aqueous methylamine (3 mL). This mixture, also biphasic, was vigorously stirred at 25° C. for 18 h, poured into a mixture of 30% aqueous NaOH (1 mL) and saturated aqueous NaCl (25 mL), and extracted with ether (3×20 mL). The ether extracts were dried (Na2SO4) and evaporated, and the residue was chromatographed on 30 g of Merck silica gel 60 (70-230 mesh) with 5% (v/v) methanol, 5% triethylamine (v/v) in benzene. This gave 206 mg (29.9% yield) of yellow oil.

reactant | p-Toluenesulfonyl chloride | 4.10 mmol, 782 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | (4E)-5-(3-(dimethylamino)phenyl)-4-penten-2-ol | 3.16 mmol, 648 mg | CN(C=1C=C(C=CC1)/C=C/CC(C)O)C | C13H19NO
reactant | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (4E)-N-Methyl-5-(3-(dimethylamino)phenyl)-4-penten-2-amine | 206 mg, 29.9% yield | CNC(C)C\C=C\C1=CC(=CC=C1)N(C)C | C14H22N2
